US05364729
(Styrene/Butadiene/Acrylic Acid)
417 grams of the above PV FAST BLUE™ dispersion were added simultaneously with 650 grams of the above prepared latex into the SD41 continuous stirring device containing 600 milliliters of water with 2.9 grams of cationic surfactant SANIZOL B-50 ™. The pigment dispersion and the latex were well mixed by continuous pumping through the rotor stator operating at 10,000 RPM for 8 minutes. This blend ,was than transferred into a kettle that was placed in a heating mantle and equipped with mechanical stirrer and temperature probe. The aggregation was performed at 35° C. for a different number of hours (see Table 3 below). Aggregates with the particle size of 3.5 (at 35° C.) were obtained. After aggregation, 35 milliliters of 10 percent anionic surfactant (NEOGEN R™) were added and the temperature was raised from about 35° C. to about 80° C. The aggregates were coalesced at 80° C. for 3 hours into a toner by repeating the coalescence step of Example III.

reactant | SANIZOL | 2.9 grams | CC(C)(C)CC(C)(C)C1=CC=C(C=C1)OCCOCC[N+](C)(C)CC2=CC=CC=C2
reactant | NEOGEN R | CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)[O-].CCCCCCCCCCCCC1=CC(=CC=C1)S(=O)(=O)[O-].CCCCCCCCCCCCC1=CC=CC=C1S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | 600 milliliters | O | H2O
product | Styrene/Butadiene Acrylic Acid | C=CC1=CC=CC=C1.C=CC=C.C(C=C)(=O)O | InChI=1S/C8H8.C4H6.C3H4O2/c1-2-8-6-4-3-5-7-8;1-3-4-2;1-2-3(4)5/h2-7H,1H2;3-4H,1-2H2;2H,1H2,(H,4,5)
